US04234594
1-Acetyl-2[1-(4-fluorophenyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline
5-Amino-1-(4-fluorophenyl)-3-methylpyrazole (25 g.) and 1-acetyl-2-imidazolinone (20.2 g.) were reacted as described in Example I to give 21.97 g. product, mp 189°-191°

reactant | 5-Amino-1-(4-fluorophenyl)-3-methylpyrazole | 25 g | NC1=CC(=NN1C1=CC=C(C=C1)F)C | C10H10FN3
reactant | 1-acetyl-2-imidazolinone | 20.2 g | C(C)(=O)N1C=NC(C1)=O | C5H6N2O2
product | 1-Acetyl-2[1-(4-fluorophenyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C1=CC=C(C=C1)F)C | C15H16FN5O
